US04923857
To a solution of allyl (5R,6S)-3-[2-{(2S,4S)-1-allyloxycarbonyl-4-(N-allyloxycarbonyl-N-methylamino)-pyrrolidin-2-yl}-1-methylethenyl]-6-[(1R)-1hydroxyethyl]-7-oxo-1-azabicyclo [3.2.0]hept-2-ene-2-carboxylate (0.495 g) in a mixture of tetrahydrofuran (5 ml) and ethanol (2.5 ml) were added successively triphenylphosphine (96 mg), 5.5-dimethyl-1,3-cyclohxanedione (dimedone)(0.38 g), acetic acid (54.7 μl), and tetrakis(triphenylphosphine)palladium(0) (85 mg). Stirring at ambient temperature for 1 hour gave a precipitate, which was coolected by filtration, washed with ethyl acetate and dissolved in water (70 ml). The solution was washed with ethyl acetate (30 ml×3) and concentrated in vacuo. The residue was chromatographed on nonionic adsorption resin "Diaion HP-20" (Trademark, made by Mitsubishi Chemical Industries)(70 ml) eluting with aqueous isopropyl alcohol (3%-20%). The fractions containing the desired compound were collected and lyophilized to give (5R,6S)-6-[(1R)-1-hydroxyethyl]-3-[2-{(2S,4S)-4-(methylamino)-pyrrolidin-2-yl}-1-methylethenyl]-7-oxo-1-azabicyclo-[3.2.0]hept-2-ene-2-carboxylic acid (135 mg).

reactant | allyl (5R,6S)-3-[2-{(2S,4S)-1-allyloxycarbonyl-4-(N-allyloxycarbonyl-N-methylamino)-pyrrolidin-2-yl}-1-methylethenyl]-6-[(1R)-1hydroxyethyl]-7-oxo-1-azabicyclo [3.2.0]hept-2-ene-2-carboxylate | 0.495 g | C(C=C)OC(=O)N1[C@@H](C[C@@H](C1)N(C)C(=O)OCC=C)C=C(C)C1=C(N2C([C@@H]([C@H]2C1)[C@@H](C)O)=O)C(=O)OCC=C | C28H37N3O8
reactant | triphenylphosphine | 96 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | acetic acid | 54.7 μl | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | ethanol | 2.5 ml | C(C)O | C2H6O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 85 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (5R,6S)-6-[(1R)-1-hydroxyethyl]-3-[2-{(2S,4S)-4-(methylamino)-pyrrolidin-2-yl}-1-methylethenyl]-7-oxo-1-azabicyclo-[3.2.0]hept-2-ene-2-carboxylic acid | 135 mg | O[C@H](C)[C@@H]1[C@H]2CC(=C(N2C1=O)C(=O)O)C(=C[C@H]1NC[C@H](C1)NC)C | C17H25N3O4
